US07705004B2
To a mixture of 2-chloro-N-(1H-indazol-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.12 g, 0.27 mmol) and 4-aminobenzamide (0.055 g, 0.4 mmol) in nBuOH (1 ml) was added TMSCl (0.017 ml, 0.14 mmol). After heating at 120° C. for 24 h, the mixture was purified by preparative HPLC to give 4-(4-(1H-indazol-4-ylamino)-7-tosyl-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide (0.016 g).

reactant | 2-chloro-N-(1H-indazol-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.27 mmol, 0.12 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2=C1C=NNC1=CC=C2 | C20H15ClN6O2S
reactant | 4-aminobenzamide | 0.4 mmol, 0.055 g | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | TMSCl | 0.14 mmol, 0.017 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 1 ml | C(CCC)O | C4H10O
product | 4-(4-(1H-indazol-4-ylamino)-7-tosyl-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 0.016 g | N1N=CC2=C(C=CC=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C27H22N8O3S
